US06858651B2
To a dry-ice cooled solution of 8.94 ml (125.9 mmol) DMSO in 150 ml CH2Cl2 was added 5.95 ml (69.24 mmol) oxalylchloride. After 5 min at −78° C., a solution of 16.2 g (66.5 mmol) trans-(4-Hydroxymethyl-cyclohexyl)-methyl-carbamic acid tert-butyl ester in 50 ml of CH2Cl2, was added slowly. 10 min later, 43.8 ml (314.75 mmol) of Et3N was added, and the mixture was allowed to attain RT. The mixture was partitioned between Et2O/1N HCl and water. The solvent was evaporated under reduced pressure yielding 16.12 g of clean (4-Formyl-cyclohexyl)-methyl-carbamic acid tert-butyl ester, MS: 241 (m).

reactant | dry-ice | C(=O)=O | CO2
reactant | DMSO | 125.9 mmol, 8.94 ml | CS(=O)C | C2H6OS
reactant | oxalylchloride | 69.24 mmol, 5.95 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trans-(4-Hydroxymethyl-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 66.5 mmol, 16.2 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)CO)=O | C13H25NO3
reactant | Et3N | 314.75 mmol, 43.8 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (4-Formyl-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 16.12 g | C(C)(C)(C)OC(N(C)C1CCC(CC1)C=O)=O | C13H23NO3
